US04138572
In the same manner, by acting propyl bromide or iodide in the presence of sodium ethylate, starting from 1-phenyl 8-chloro 1,2,4,5-tetrahydro 2,4-dioxo 3H-1,5-benzodiazepine, there is obtained 1-phenyl 5-propyl 8-chloro 1,2,4,5-tetrahydro 3H-1,5-benzodiazepine (R1 = H, R2 = Cl, R3 = C3H7, R4 = C6H5) melting at 192°-194° C. upon recrystallisation in ethanol.

reactant | propyl bromide | C(CC)Br | C3H7Br
reactant | iodide | [I-]
reactant | sodium ethylate | CC[O-].[Na+]
reactant | 1-phenyl 8-chloro 1,2,4,5-tetrahydro 2,4-dioxo 3H-1,5-benzodiazepine | C1(=CC=CC=C1)N1C(CC(NC2=C1C=C(C=C2)Cl)=O)=O | C15H11ClN2O2
product | 1-phenyl 5-propyl 8-chloro 1,2,4,5-tetrahydro 3H-1,5-benzodiazepine | C1(=CC=CC=C1)N1CCCN(C2=C1C=C(C=C2)Cl)CCC | C18H21ClN2
